US08067447B2
To a stirred solution of phenyl(3-phenyl-1H-indazol-6-yl)methanol (67 mg, 0.22 mmol) and (1-methoxy-2-methylprop-1-enyloxy)trimethylsilane (2 mL) in anhydrous dichloromethane (4 mL) was added boron trifluoride diethyl ether complex (0.2 mL, 1.6 mmol) dropwise at 0° C. under argon. After stirred at 0° C. for 15 min, rt for 2 hr, and 40° C. for 1.5 hr, the mixture was poured into saturated aqueous sodium bicarbonate solution at 0° C. The mixture was stirred well and extracted with dichloromethane (10 mL). The dichloromethane layer was dried (Na2SO4) and concentrated. Silica gel flash chromatography gave methyl 2,2-dimethyl-3-phenyl-3-(3-phenyl-1H-indazol-6-yl)propanoate (45 mg, 0.12 mmol, 53% yield) as a glassy solid.

reactant | phenyl(3-phenyl-1H-indazol-6-yl)methanol | 0.22 mmol, 67 mg | C1(=CC=CC=C1)C(O)C1=CC=C2C(=NNC2=C1)C1=CC=CC=C1 | C20H16N2O
reactant | (1-methoxy-2-methylprop-1-enyloxy)trimethylsilane | 2 mL | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | methyl 2,2-dimethyl-3-phenyl-3-(3-phenyl-1H-indazol-6-yl)propanoate | 0.12 mmol, 45 mg, 53% yield | CC(C(=O)OC)(C(C1=CC=C2C(=NNC2=C1)C1=CC=CC=C1)C1=CC=CC=C1)C | C25H24N2O2
